US08183271B2
1-Allyl 7-ethyl 2-allyloxycarbonyl-2-[2-(4-cyanophenyl)ethyl]heptandioate
6.37 g (159.27 mmol; 60% pure) of sodium hydride are added in portions to a solution of 45.23 g (144.79 mmol) of 1-allyl 7-ethyl 2-allyloxycarbonylheptanedioate in 250 ml of DMF at 0° C. The reaction solution is then allowed to reach room temperature and is stirred for 30 min. The reaction solution is then cooled to 0° C. and, after addition of 36.50 g (173.75 mmol) of 4-(2-bromoethyl)benzonitrile in 250 ml DMF, stirred at this temperature for 30 min. The mixture is then stirred at room temperature overnight. Water is added dropwise to the reaction mixture and, after extraction three times with ethyl acetate, the combined organic phases are washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solvent is concentrated to dryness in vacuo. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1→4:1→1:1). 17.85 g (40.43 mol, 28% of theory) of a colorless solid are obtained.

reactant | sodium hydride | 159.27 mmol, 6.37 g | [H-].[Na+]
reactant | 1-allyl 7-ethyl 2-allyloxycarbonylheptanedioate | 144.79 mmol, 45.23 g | C(C=C)OC(=O)C(C(=O)OCC=C)CCCCC(=O)OCC | C16H24O6
reactant | 4-(2-bromoethyl)benzonitrile | 173.75 mmol, 36.50 g | BrCCC1=CC=C(C#N)C=C1 | C9H8BrN
reactant | Water | O | H2O
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 1-Allyl 7-ethyl 2-allyloxycarbonyl-2-[2-(4-cyanophenyl)ethyl]heptandioate | C(C=C)OC(=O)C(C(=O)OCC=C)(CCCCC(=O)OCC)CCC1=CC=C(C=C1)C#N | C25H31NO6
